US08258158B2
4-(3-Methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester (3.36 g) was dissolved under an argon atmosphere in pyridine (80 ml), benzensulfonyl chloride (2.59 g) was added and the mixture was stirred overnight at RT. The pyridine was evaporated off, the residue dissolved in ethyl acetate and washed with 0,05M HCl and brine. The layers were separated, the organic layer was dried over sodium sulphate, the solvent was then removed in vacuo and the crude oil was purified by flash chromatography over silica gel (AcOEt/heptane gradient from 0 to 25%) to give 1-benzenesulfonyl-4-(3-methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester (4.15 g) as a yellow semi-solid. MS (ESI): 370.16 (MH+).

reactant | 4-(3-Methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester | 3.36 g | C(C)OC(=O)C1(CCNCC1)CCCOC | C12H23NO3
reactant | benzensulfonyl chloride | 2.59 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 1-benzenesulfonyl-4-(3-methoxy-propyl)-piperidine-4-carboxylic acid ethyl ester | 4.15 g | C(C)OC(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=CC=C1)CCCOC | C18H27NO5S
